US04988695
(a) 1-(2-Amino-3-methylphenyl)-4-chlorobutan-1-one hydrochloride.
To a solution of boron trichloride (55 g) in 1,2 dichloroethane at 0° was added dropwise a solution of o-toluidine (45.7 g, 0.426 mol) in 1,2 dichloroethane (50 ml) maintaining the temperature below 5°. On completion of the addition 4-chlorobutyronitrile (41.4 g, 0.426 mol) and aluminium chloride (53.34 g, 0.426 mol) were added successively. The reaction mixture was allowed to warm up to room temperature and stirred for 1.5 hours, then heated under reflux for 20 hours. The reaction mixture was then cooled to room temperature poured onto ice (500 g) and 2N hydrochloric acid (200 ml). The mixture was then heated under reflux for 0.5 hour. The organic layer was separated and the aqueous layer was extracted with chloroform (3×100 ml). The organic extracts were combined, washed with water, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give an oil. The oil was dissolved in diethyl ether and HCl gas bubbled through. The resulting solid was collected by filtration and dried (57 g). Recrystallization from ethanol/diethyl ether gave the title compound, m.p. 148-150°.

reactant | boron trichloride | 55 g | B(Cl)(Cl)Cl | BCl3
reactant | o-toluidine | 0.426 mol, 45.7 g | NC=1C(=CC=CC1)C | C7H9N
reactant | 4-chlorobutyronitrile | 0.426 mol, 41.4 g | ClCCCC#N | C4H6ClN
reactant | aluminium chloride | 0.426 mol, 53.34 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | 1,2 dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2 dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 1-(2-Amino-3-methylphenyl)-4-chlorobutan-1-one hydrochloride | Cl.NC1=C(C=CC=C1C)C(CCCCl)=O | InChI=1S/C11H14ClNO.ClH/c1-8-4-2-5-9(11(8)13)10(14)6-3-7-12;/h2,4-5H,3,6-7,13H2,1H3;1H
